US08957068B2
Step 2: Preparation of tert-butyl 2-methyl-3-oxobutan-2-ylcarbamate
To a solution of tert-butyl 1-(methoxy(methyl)amino)-2-methyl-1-oxopropan-2-ylcarbamate (4.26 g, 17.30 mmol) in THF (100 mL) at −70° C. was added drop wise methyl lithium (32.4 mL, 51.9 mmol). Cold bath was replaced with −40° C. bath and the reaction was stirred for 4 hours. Saturated NH4Cl solution (10 mL) was then added cautiously to quench the reaction. The reaction mixture was then allowed to warm to room temperature, and diluted with EtOAc (100 mL) and water (50 mL). The phases were separated and the aqueous layer was extracted with EtOAc (2×100 mL). The combined organics were then dried (Na2SO4) and concentrated under reduced pressure. The residue was purified via silica gel flash chromatography (10-50% EtOAc-Hexanes) to afford the desired product as a white solid (2.36 g). LCMS m/z 224.2 (M+Na)+, Rt 0.7 min.

reactant | tert-butyl 1-(methoxy(methyl)amino)-2-methyl-1-oxopropan-2-ylcarbamate | 17.30 mmol, 4.26 g | CON(C(C(C)(C)NC(OC(C)(C)C)=O)=O)C | C11H22N2O4
reactant | methyl lithium | 51.9 mmol, 32.4 mL | C[Li]
reactant | NH4Cl | 10 mL | [NH4+].[Cl-]
solvent | THF | 100 mL | C1CCOC1 | C4H8O
solvent | EtOAc | 100 mL | CCOC(=O)C | C4H8O2
solvent | water | 50 mL | O | H2O
product | tert-butyl 2-methyl-3-oxobutan-2-ylcarbamate | 2.36 g | CC(C)(C(C)=O)NC(OC(C)(C)C)=O | C10H19NO3
